US06326369B1
8-(2-Hydroxymethyl-5,6-dimethoxy-4,7-dioxoindan-2-yl)octanol
A water (1.0 ml) solution of CAN (509 mg, 0.928 mmols) was dropwise added to an acetonitrile (4.0 ml) solution of 8-(2-hydroxymethyl-4,5,6,7-tetramethoxyindan-2-yl)octanol (147 mg, 0.371 mmols) with cooling with ice and stirring was continued for 15 minutes. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, and then dried. The solvent was evaporated in vacuo, and the resulting crude product was purified by silica gel column chromatography (hexane:ethyl acetate=2:1 to 1:2) followed by recrystallization from hexane-ethyl acetate to obtain the entitled compound (35 mg) as crystals.

reactant | CAN | 0.928 mmols, 509 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | acetonitrile | 4.0 ml | C(C)#N | C2H3N
reactant | 8-(2-hydroxymethyl-4,5,6,7-tetramethoxyindan-2-yl)octanol | 0.371 mmols, 147 mg | OCC1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)CCCCCCCCO | C22H36O6
solvent | Water | O | H2O
solvent | water | 1.0 ml | O | H2O
product | 8-(2-Hydroxymethyl-5,6-dimethoxy-4,7-dioxoindan-2-yl)octanol | 35 mg | OCC1(CC=2C(C(=C(C(C2C1)=O)OC)OC)=O)CCCCCCCCO | C20H30O6
